US07906654B2
(7-chloro-6-fluoro-1H-benzimidazol-1-yl)acetic acid
2-(7-Chloro-6-fluoro-1H-benzimidazol-1-yl)ethanol (550 mg, 2.57 mmol) is dissolved in AcOH (20.0 mL). Jones reagenta (3.31 mL, 3.00 mmol, 0.907 M) is added drop wise, and the solution is stirred for 1 hour at room temperature. The solution is diluted with iPrOH (50.0 mL), and the solvents are evaporated. 6N NaOH is added to the solution until the pH is 11. The aqueous phase is washed with EtOAc (50.0 mL), and the organic phase is extracted 3 times with water (3×50.0 mL). The combined aqueous phases are acidified with 12N HCl until the pH is 3. The aqueous phase is then extracted 4 times with EtOAc (4×50.0 mL). The combined organic phases are dried with MgSO4, filtered and concentrated. The product is sufficiently pure by 1H NMR (236 mg, 40%). 1H NMR (400 MHz, DMSO-D6) δ ppm 5.18 (s, 2H) 7.24 (dd, J=10.16, 8.79 Hz, 1H) 7.64 (dd, J=8.79, 4.49 Hz, 1H) 8.13-8.30 (m, 1H). a Jones reagent is prepared by mixing 997 mg of CrO3 in 1.00 mL of H2SO4 and 10.0 mL of water.

reactant | 2-(7-Chloro-6-fluoro-1H-benzimidazol-1-yl)ethanol | 2.57 mmol, 550 mg | ClC1=C(C=CC2=C1N(C=N2)CCO)F | C9H8ClFN2O
reactant | AcOH | 20.0 mL | CC(=O)O | C2H4O2
solvent | iPrOH | 50.0 mL | CC(C)O | C3H8O
solvent | H2SO4 | 1.00 mL | OS(=O)(=O)O | H2O4S
solvent | water | 10.0 mL | O | H2O
product | (7-chloro-6-fluoro-1H-benzimidazol-1-yl)acetic acid | ClC1=C(C=CC2=C1N(C=N2)CC(=O)O)F | C9H6ClFN2O2
